US07625932B2
Preparation of 4-Cyano-5-ethyl-3-[4-(1-isobutyl-1H-tetrazol-5-yl)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Into a round bottom flask containing a solution of 4-cyano-5-ethyl-1-methyl-3-[4-(1H-tetrazol-5-yl)-phenyl]-1H-pyrrole-2-carboxylic acid ethyl ester (0.150 g, 0.428 mmol, prepared in example E-242) in DMF (2 mL) cooled to 0° C. while stirring add NaH (0.019 g, 0.479 mmol, 60% in mineral oil). Let stir for 1 h, then add 1-bromo-2-methylpropane (0.052 mL, 0.479 mmol) and let stir overnight. Dilute the mixture with brine (20 mL) and extract the mixture with EtOAc (3×15 mL). Combine the organic layers and wash with brine (2×20 mL), aqueous NH4Cl (1×20 mL), aqueous NaHCO3 (1×20 mL) and water (1×20 mL). Dry the organic layer over anhydrous Na2SO4, filter, and concentrate under reduced pressure. Purify the residue via silica gel chromatography (eluent: 20 to 98% EtOAc in hexanes). Concentrate under reduced pressure the purified fractions and azeotroped with methylene chloride/hexanes. Place the residue under vacuum to provide the title compound as a colorless tar (0.011 g); mass spectrum (m/e): 407.3 (M+H)

reactant | 4-cyano-5-ethyl-1-methyl-3-[4-(1H-tetrazol-5-yl)-phenyl]-1H-pyrrole-2-carboxylic acid ethyl ester | 0.428 mmol, 0.150 g | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=NN=NN1)C#N)CC)C | C18H18N6O2
reactant | NaH | 0.479 mmol, 0.019 g | [H-].[Na+]
reactant | 1-bromo-2-methylpropane | 0.479 mmol, 0.052 mL | BrCC(C)C | C4H9Br
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | brine | 20 mL | [Cl-].[Na+].O
product | 4-Cyano-5-ethyl-3-[4-(1-isobutyl-1H-tetrazol-5-yl)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=NN=NN1CC(C)C)C#N)CC)C | C22H26N6O2
